US06506901B2
Step E: [4-(t-Butoxycarbonylamino-methyl)-3-fluoro-phenoxyl]-acetic Acid Methyl Ester
A solution of (2-fluoro-4-hydroxy-benzyl)-carbamic acid t-butyl ester (0.47 g, 1.95 mmol), methyl bromoacetate (0.203 mL, 2.15 mmol) and potassium carbonate (0.431 g, 3.12 mmol) in DMF (5 mL) was stirred at ambient temperature overnight. The reaction mixture was partitioned with water and ethyl acetate. The organic phase was washed with water and dried (Na2SO4). Removal of solvent in vacuo afforded 0.59 g of the title compound.

reactant | (2-fluoro-4-hydroxy-benzyl)-carbamic acid t-butyl ester | 1.95 mmol, 0.47 g | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)O)F)=O | C12H16FNO3
reactant | methyl bromoacetate | 2.15 mmol, 0.203 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 3.12 mmol, 0.431 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [4-(t-Butoxycarbonylamino-methyl)-3-fluoro-phenoxyl]-acetic Acid Methyl Ester | 0.59 g | COC(COC1=CC(=C(C=C1)CNC(=O)OC(C)(C)C)F)=O | C15H20FNO5
